US05350660
A solution of p-tert-butoxystyrene (28.2 g, 0.16 mole) and tert-butyl methacrylate (5.7 g, 0.04 mole) in toluene containing a catalytic amount of 2,2'-azobis(2,4-dimethylvaleronitrile) was heated at 80° C. for 8 hours under nitrogen. After cooling, the reaction mixture was poured into petroleum ether and the polymer was precipitated. The polymer was filtered, washed with petroleum ether and dried under reduced pressure to give 23.8 g of poly(p-tert-butoxystyrene-tert-butyl methacrylate) as a white powder.

reactant | p-tert-butoxystyrene | 0.16 mole, 28.2 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | tert-butyl methacrylate | 0.04 mole, 5.7 g | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | 2,2'-azobis(2,4-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | p-tert-butoxystyrene tert-butyl methacrylate | C(C)(C)(C)OC1=CC=C(C=C)C=C1.C(C(=C)C)(=O)OC(C)(C)C | InChI=1S/C12H16O.C8H14O2/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-6(2)7(9)10-8(3,4)5/h5-9H,1H2,2-4H3;1H2,2-5H3
